US07989624B2
Step C. Benzyl N-(2-oxo-2,3-dihydro-1H-indol-4-yl)glycinate
A mixture of 4-amino-1,3-dihydro-2H-indol-2-one (300 mg, 2.03 mmol), benzyl bromoacetate (0.32 mL, 2.03 mmol), cesium carbonate (660 mg, 2.03 mmol), and potassium iodide (336 mg, 2.03 mmol) in DMF (10 mL) was stirred at 50° C. for 4 h. The cooled reaction mixture was quenched with H2O (10 mL) and extracted with EtOAc (2×15 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of CH2Cl2:EtOAc-100:0 to 80:20, to give the title compound. MS: m/z=297 (M+1).

reactant | 4-amino-1,3-dihydro-2H-indol-2-one | 2.03 mmol, 300 mg | NC1=C2CC(NC2=CC=C1)=O | C8H8N2O
reactant | benzyl bromoacetate | 2.03 mmol, 0.32 mL | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | cesium carbonate | 2.03 mmol, 660 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | potassium iodide | 2.03 mmol, 336 mg | [I-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | Benzyl N-(2-oxo-2,3-dihydro-1H-indol-4-yl)glycinate | O=C1NC2=CC=CC(=C2C1)NCC(=O)OCC1=CC=CC=C1 | C17H16N2O3
